US06969766B2
(2-Amino-6-iodopurin-9-yl)-acetic acid ethyl ester
To a solution of 2-amino-6-iodo-purine (78.3 g, 0.3 mol) in DMF (1960 mL) was added ethyl bromoacetate (55.1 g, 0.33 mol) and potassium carbonate (82.9 g, 0.6 mol). The resulting reaction mixture was stirred for 12 h at room temperature. The reaction mixture was concentrated to small volume (about 150 mL) in vacuo and the residue was dissolved in water. The solid was filtered off, washed with water and ethyl ether, and dried in vacuo to give the titled compound (98.4 g, 95%). 1H-NMR (500 MHz; DMSO-d6) δ 8.06 (s, 1H), 6.90 (br.s, 2H), 4.94 (s, 2H), 4.17 (q, 2H), 1.22 (t, 3H).

reactant | 2-amino-6-iodo-purine | 0.3 mol, 78.3 g | NC1=NC(=C2NC=NC2=N1)I | C5H4IN5
reactant | ethyl bromoacetate | 0.33 mol, 55.1 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.6 mol, 82.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1960 mL | CN(C)C=O | C3H7NO
product | (2-Amino-6-iodopurin-9-yl)-acetic acid ethyl ester | 98.4 g, 95% | C(C)OC(CN1C2=NC(=NC(=C2N=C1)I)N)=O | C9H10IN5O2
